US03981907
The surfactant properties of sodium lauryl sulfate and sodium ethoxylated-lauryl sulfate produced from n-lauryl alcohol which is a derivative of butadiene trimer compare very favorably with those of sodium lauryl sulfate and sodium ethoxylated-lauryl sulfate produced from natural lauryl alcohol. On the other hand, surfactant properties of sodium iso-lauryl sulfate are inferior to those of others. Sodium ethoxylated-iso-lauryl sulfate might be used equally to sodium ethoxylated-lauryl sulfate produced from natural alcohol. Products from iso-lauryl alcohol have foam breaking characteristic. Therefore, it is expected to be used as industrial surfactant such as fiber treating agent (to remove fat from fiber).

reactant | butadiene | C=CC=C | C4H6
reactant | sodium lauryl sulfate | S(=O)(=O)(OCCCCCCCCCCCC)[O-].[Na+]
product | lauryl alcohol | C(CCCCCCCCCCC)O | C12H26O
